US05420164
To a solution of 1.6 g of 4-isopropylcyclohexylisocyanate in chloroform is added a solution of 1.8 g of 2,4,6-trimethoxyaniline in chloroform dropwise in the presence of pyridine. The mixture is stirred at room temperature until starting compounds disappear on TLC. The resultant mixture is concentrated and the residue is dissolved in ethyl acetate. The solution is washed with diluted hydrochloric acid, aqueous sodium hydrogencarbonate solution and brine. The organic layer is dried over magnesium sulfate and filtered off. The filtrate is distilled away and the resulting residue is crystallized to give N-(2,4,6-trimethoxyphenyl)-N'-(4-isopropylcyclohexyl)urea.

reactant | 4-isopropylcyclohexylisocyanate | 1.6 g | C(C)(C)C1CCC(CC1)N=C=O | C10H17NO
reactant | 2,4,6-trimethoxyaniline | 1.8 g | COC1=C(N)C(=CC(=C1)OC)OC | C9H13NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2,4,6-trimethoxyphenyl)-N'-(4-isopropylcyclohexyl)urea | COC1=C(C(=CC(=C1)OC)OC)NC(=O)NC1CCC(CC1)C(C)C | C19H30N2O4
